US07910740B2
N-(4-Fluoro-phenyl)-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide
The title compound was prepared in analogy to example 27 from 92 mg (0.25 mmol) ({2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester and 98 mg (0.87 mmol) 4-fluoroaniline. After the first addition conversion was not complete. Therefore the same amount of the aniline and trimethylaluminium were added and the reaction was heated again over night. Workup as in example 27 and subsequent purification on silica gel with methylene chloride/methanol 19/1 yielded 95 mg (89%) N-(4-fluoro-phenyl)-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide as a brown oil. MS ISP (m/e): 438.1 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=9.08 (s, 1H), 7.65 (s, 2H), 7.45 (dd, 2H), 7.31 (s, 1H), 7.21 (d, 1H), 7.06-6.88 (m, 3H), 6.51 (s, 1H), 3.80 (s, 3H), 3.73 (s, 2H), 2.30 (s, 3H).

reactant | {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C18H20N4O3S
reactant | 4-fluoroaniline | 0.87 mmol, 98 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | trimethylaluminium | C[Al](C)C
product | N-(4-fluoro-phenyl)-2-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetamide | 95 mg, 89% | FC1=CC=C(C=C1)NC(CC=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C22H20FN5O2S
